US07572809B2
Similar procedure as described in example 328 was used, starting from 1-Isopropoxy-7-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol and 4-chloro-tetrahydropyran to give [1-Isopropoxy-7-methoxy-6-(tetrahydro-pyran-4-yloxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 413(MH+).

reactant | 1-Isopropoxy-7-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OC)O)NC1=NNC(=C1)C | C17H20N4O3
reactant | 4-chloro-tetrahydropyran | ClC1CCOCC1 | C5H9ClO
product | [1-Isopropoxy-7-methoxy-6-(tetrahydro-pyran-4-yloxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OC)OC1CCOCC1)NC1=NNC(=C1)C | C22H28N4O4
